US08222430B2
Synthesis of (E)-5-(tert-butyldiphenylsilyloxy)-N-phenyl-2-(phenylthiomethylene) pentanamide
1.87 g of chloro t-butyl diphenylsilane was dropped into 10 ml of methylene chloride solution including 1.64 g of (E)-5-hydroxy-N-phenyl-2-(phenylthiomethylene)pentanamide and 0.82 g of imidazole at room temperature. After stirring at room temperature for 2 hours, the resulting solution was added with water and extracted with ethyl acetate. The organic layer was washed 3 times, then washed with brine, and dried with anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 2.81 g the title compound.

reactant | chloro t-butyl diphenylsilane | 1.87 g | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C16H19ClSi
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | (E)-5-hydroxy-N-phenyl-2-(phenylthiomethylene)pentanamide | 1.64 g | OCCC\C(\C(=O)NC1=CC=CC=C1)=C/SC1=CC=CC=C1 | C18H19NO2S
reactant | imidazole | 0.82 g | N1C=NC=C1 | C3H4N2
solvent | water | O | H2O
product | (E)-5-(tert-butyldiphenylsilyloxy)-N-phenyl-2-(phenylthiomethylene) pentanamide | 2.81 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC\C(\C(=O)NC1=CC=CC=C1)=C/SC1=CC=CC=C1 | C34H37NO2SSi
